US07491718B2
3-oxo-3-(1-pyrrolidinyl)propanenitrile
Ethyl cyanoacetate (5.33 mL, 50 mmol) and pyrrolidine (20.87 mL, 250 mmol) were gently refluxed at 90° C. in an oil bath for 8 hours. Excess pyrrolidine was removed by concentration and the residue was triturated with diethyl ether. This was purified by silica gel column chromatography eluting with 50% acetone in n-hexane to provide the desired product (5.0 g). MS (DCI) m/e 139 (M+H)+, 156 (M+NH4)+; 1H NMR (300 MHz, DMSO-d6) δ 3.90 (s, 2H), 3.27-3.38 (m, 4H), 1.73-1.91 (m, 4H).

reactant | Ethyl cyanoacetate | 50 mmol, 5.33 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | pyrrolidine | 250 mmol, 20.87 mL | N1CCCC1 | C4H9N
product | 3-oxo-3-(1-pyrrolidinyl)propanenitrile | 5.0 g | O=C(CC#N)N1CCCC1 | C7H10N2O
